US07939528B2
4-[(4-Amino-3-nitrophenyl)oxy]-3-chlorobenzaldehyde (1.16 g, 5.3 mmol), ethylene glycol (5 ml) and p-toluenesulfonic acid (50 mg) in 150 mL of toluene was heated at 120 degrees centigrade with a Dean-Stark trap for 24 hours. The reaction mixture was diluted with ethyl acetate and washed twice with 1N NaOH. The organic layer was dried over MgSO4 and concentrated to give 4-{[2-chloro-4-(1,3-dioxolan-2-yl)phenyl]oxy}-2-nitroaniline. (M+1) 336.9, 2.60 min (LC/MS method B)

reactant | 4-[(4-Amino-3-nitrophenyl)oxy]-3-chlorobenzaldehyde | 5.3 mmol, 1.16 g | NC1=C(C=C(C=C1)OC1=C(C=C(C=O)C=C1)Cl)[N+](=O)[O-] | C13H9ClN2O4
reactant | ethylene glycol | 5 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{[2-chloro-4-(1,3-dioxolan-2-yl)phenyl]oxy}-2-nitroaniline | ClC1=C(C=CC(=C1)C1OCCO1)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C15H13ClN2O5
